US06387904B2
5-(2-(4-(1-Naphthyl)piperazinyl)ethyl)oxindole hydrochloride
To a 50 ml round bottomed flask equipped with condenser and nitrogen inlet were added 370 mg (1.69 mmol) 5-(2-chloroethyl)oxindole, 400 mg (1.69 mmol) N-(1-naphthyl)piperazine hydrochloride, 200 mg (1.69 mmol) sodium carbonate, 2 mg sodium iodide, and 50 ml methylisobutylketone. The reaction was refluxed 24 hours, cooled, and evaporated. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel with ethyl acetate, and the product fractions collected and evaporated to give a foam. The foam was dissolved in ether, treated with hydrochloric acid gas, and the precipitate collected, washed with ether, and dried to afford a white solid, m.p. 303°-305° C., 603 mg (84%).

reactant | 5-(2-chloroethyl)oxindole | 1.69 mmol, 370 mg | ClCCC=1C=C2CC(NC2=CC1)=O | C10H10ClNO
reactant | N-(1-naphthyl)piperazine hydrochloride | 1.69 mmol, 400 mg | Cl.C1(=CC=CC2=CC=CC=C12)N1CCNCC1
reactant | sodium carbonate | 1.69 mmol, 200 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 5-(2-(4-(1-Naphthyl)piperazinyl)ethyl)oxindole hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC=1C=C2CC(NC2=CC1)=O | InChI=1S/C24H25N3O.ClH/c28-24-17-20-16-18(8-9-22(20)25-24)10-11-26-12-14-27(15-13-26)23-7-3-5-19-4-1-2-6-21(19)23;/h1-9,16H,10-15,17H2,(H,25,28);1H
